US07786044B2
22. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-trimethylsilanylethynylpyrimidine-4-carboxylic acid methyl ester
6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester (1.0 g, 2.56 mmol), trimethyl((tributylstannyl)ethynyl)silane (1.98 g, 5.12 mmol), and bis(triphenylphosphine)palladium(II) dichloride (0.18 g, 0.256 mmol) were combined in 1,2-dichloroethane (10 mL) and heated in a CEM microwave reactor at 110° C. for 15 min. The cooled reaction mixture was concentrated under vacuum then purified by flash chromatography on silica gel (dichloromethane/ethyl acetate gradient). A second purification by flash chromatography on silica gel (hexane/ethyl acetate gradient) yielded the title compound (0.829 g, 79% yield): mp 126-128° C.

reactant | 6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester | 2.56 mmol, 1.0 g | COC(=O)C1=NC(=NC(=C1Br)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H10BrClFN3O3
reactant | trimethyl((tributylstannyl)ethynyl)silane | 5.12 mmol, 1.98 g | C[Si](C#C[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.256 mmol, 0.18 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-trimethylsilanylethynylpyrimidine-4-carboxylic acid methyl ester | 0.829 g, 79% yield | COC(=O)C1=NC(=NC(=C1C#C[Si](C)(C)C)N)C1=C(C(=C(C=C1)Cl)OC)F | C18H19ClFN3O3Si
